US07323475B2
a. 4-Hydroxy-7-phenoxy-1-vinyl-isoquinoline-3-carboxylic acid butyl ester
A mixture of 1-Bromo-4-hydroxy-7-phenoxy-isoquinoline-3-carboxylic acid butyl ester (416 mg, 1 mmol, see example D-28a), Pd(PPh3)4 (118 mg, 0.1 mmol), 2,4,6-Trivinylcyclotriboroxane-pyridine complex (241 mg, 1 mmol), K2CO3 (414 mg, 3 mmol), and 1,4-dioxane (8 ml) was refluxed with stirring under N2 protection for 3 h. Subsequently, the mixture was concentrated in vacuo. To the residue was added water (5 ml) and the mixture was extracted with EtOAc (20 ml). The organic phase was dried over MgSO4 and evaporated in vacuo. Purification of the residue by flash column chromatography on silica gel using hexanes EtOAc=98 2 as the eluent gave the title compound as a yellowish solid (65 mg); MS-(+)-ion M+1=364.1.

reactant | 1-Bromo-4-hydroxy-7-phenoxy-isoquinoline-3-carboxylic acid butyl ester | C(CCC)OC(=O)C=1N=C(C2=CC(=CC=C2C1O)OC1=CC=CC=C1)Br | C20H18BrNO4
reactant | 2,4,6-Trivinylcyclotriboroxane-pyridine complex | 1 mmol, 241 mg | B1(OB(OB(O1)C=C)C=C)C=C.C1=CC=NC=C1
reactant | K2CO3 | 3 mmol, 414 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(PPh3)4 | 0.1 mmol, 118 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,4-dioxane | 8 ml | O1CCOCC1 | C4H8O2
product | 4-Hydroxy-7-phenoxy-1-vinyl-isoquinoline-3-carboxylic acid butyl ester | 65 mg | C(CCC)OC(=O)C=1N=C(C2=CC(=CC=C2C1O)OC1=CC=CC=C1)C=C | C22H21NO4
